US04895946
Two grams of methyl 4-(3-ethoxymethylene-5,5-dicyanopent-4-en-1-yl)benzoate, 0.93 g of 2,4-diamino-6(1H)-pyrimidone, and 30 mL of acetic acid are heated at reflux with stirring for 4 hours. The reaction mixture is allowed to cool to room temperature and the solid which forms is collected by filtration, washed with water and diethyl ether and dried to yield methyl 4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin6-yl)-ethyl]benzoate, m.p.>300° C.; IR (KBr) νmax 3320, 2950, 1720, 1657, 1626, 1610, 1455, 1280, 1251, 1148, 1109, and 834 cm-1 ; 1H NMR (dTFA, d6DMSO) delta 8.38 (s, 1H (7)--H), 7.99 (s, 1H, (5)--H), 7.55 (d, J=8.0 Hz, 2H, Ar), 6.87 (s, 1H (3)--H), 6.82 (d, J=8.0 Hz, 2H, Ar), 3.56 (s, 3H, --CH3), 2.77-281 (m, 2H, (6)--CH2 --), 2.67-2.73 (m, 2H, benzyl).

reactant | methyl 4-(3-ethoxymethylene-5,5-dicyanopent-4-en-1-yl)benzoate | Two grams | C(C)OC=C(CCC1=CC=C(C(=O)OC)C=C1)C=C(C#N)C#N | C18H18N2O3
reactant | 2,4-diamino-6(1H)-pyrimidone | 0.93 g | NC=1NC(C=C(N1)N)=O | C4H6N4O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | methyl 4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin6-yl)-ethyl]benzoate | NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)OC)C=C2)O | C17H16N4O3
